US04093725
7-(2-Hydroxy-3-isopropylaminopropoxy)-1(2H)-phthalazinethione was reacted with hydrazine hydrate in a similar manner to that described in Example 1(viii) to give 7-(2-hydroxy-3-isopropylaminopropoxy)-1-hydrazinophthalazine which was isolated as its hydrochloride m.p. 249°-253° (decomposition).

reactant | 7-(2-Hydroxy-3-isopropylaminopropoxy)-1(2H)-phthalazinethione | OC(COC1=CC=C2C=NNC(C2=C1)=S)CNC(C)C | C14H19N3O2S
reactant | hydrazine hydrate | O.NN
product | 7-(2-hydroxy-3-isopropylaminopropoxy)-1-hydrazinophthalazine | OC(COC1=CC=C2C=NN=C(C2=C1)NN)CNC(C)C | C14H21N5O2
